US08404861B2
Production of N-isobutyloxycarbonyl-N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide (Compound No. 1-152)
Sodium hydride (29 mg, 60%, 0.73 mmol) was suspended in tetrahydrofuran (10 ml), and a solution of N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide (260 mg, 0.48 mmol) in tetrahydrofuran (5 ml) was added dropwise. After stirring at room temperature for 30 min, a solution of isobutyl chlorocarbonate (100 mg, 0.73 mmol) in tetrahydrofuran (2 ml) was added, and the mixture was stirred for one day. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired compound (280 mg).

reactant | Sodium hydride | 0.73 mmol, 29 mg | [H-].[Na+]
reactant | N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide | 0.48 mmol, 260 mg | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)(C(F)(F)F)OC)NC(=O)C=1C(=NN(C1C)C)C | C21H25F6N3O2
reactant | isobutyl chlorocarbonate | 0.73 mmol, 100 mg | C(OCC(C)C)(=O)Cl | C5H9ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-isobutyloxycarbonyl-N-{3-isobutyl-4-[1-methoxy-2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide | 280 mg, yield: 91% | C(C(C)C)OC(=O)N(C(=O)C=1C(=NN(C1C)C)C)C1=CC(=C(C=C1)C(C(F)(F)F)(C(F)(F)F)OC)CC(C)C | C26H33F6N3O4
